US06903092B2
Ethyl-3-bromo-2,4-dimethoxy-1-naphthoate
To a solution of ethyl-3-bromo-2,4-dihydroxy-1-naphthoate (5.8 g, 18.6 mmol) in acetone (93 mL) was added potassium carbonate (6.43 g, 46.6 mmol) and dimethyl sulfate (4.4 mL, 46.6 mmol). The mixture was heated under reflux overnight and solvent was removed in vacuo. Water and EtOAc was added and the organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by chromatography (eluting with 3-5% EtOAc/hexane) to give the product (6.23 g, 99% yield) as a light yellow oil. 1H NMR (CDCl3) δ 8.13 (d, 1H), 7.83 (d, 1H), 7.62-7.48 (m, 2H), 4.54 (q, 2H), 4.02 (s, 3H), 4.00 (s, 3H), 1.46 (t, 3H).

reactant | ethyl-3-bromo-2,4-dihydroxy-1-naphthoate | 18.6 mmol, 5.8 g | C(C)OC(=O)C1=C(C(=C(C2=CC=CC=C12)O)Br)O | C13H11BrO4
reactant | potassium carbonate | 46.6 mmol, 6.43 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 46.6 mmol, 4.4 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 93 mL | CC(=O)C | C3H6O
product | Ethyl-3-bromo-2,4-dimethoxy-1-naphthoate | 6.23 g, 99% yield | C(C)OC(=O)C1=C(C(=C(C2=CC=CC=C12)OC)Br)OC | C15H15BrO4
